US08426430B2
A mixture of 7-nitroquinazolin-4-ol (3.4 g, 17.79 mmol), thionyl chloride (20 mL), and DMF (0.5 mL) was refluxed for 48 h. After the mixture was cooled, excess thionyl chloride was removed by evaporation and the residue was azeotroped with toluene to afford 2.61 g (70%) of 4-chloro-7-nitroquinazoline as a yellowish solid.

reactant | 7-nitroquinazolin-4-ol | 17.79 mmol, 3.4 g | [N+](=O)([O-])C1=CC=C2C(=NC=NC2=C1)O | C8H5N3O3
reactant | thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 4-chloro-7-nitroquinazoline | 2.61 g, 70% | ClC1=NC=NC2=CC(=CC=C12)[N+](=O)[O-] | C8H4ClN3O2
